US05041445
a. 3-(4-bromobutyl)-1-thia-3-azaspiro[4.5]decan-4-one
To a solution of 3-(4-bromobutyl)-4-thiazolidinone (25 g) in tetrahydrofuran (350 ml) cooled to -60° C., was added 1,5-diiodopentane (100 g). The resulting slurry was allowed to cool to -65° C. and a solution of lithium bis(trimethylsilyl)amide in hexanes (220 ml) was added dropwise over a period of 30 minutes while maintaining the internal temperature at or below -55° C. The resulting mixture was stirred for 15 minutes and the internal temperature allowed to rise to 0° C. 0.5N HCl (500 ml) was added to quench the reaction and the mixture was concentrated in vacuo to remove the THF. The aqueous mixture was extracted twice with 250 ml portions of ether, washed with water (400 ml) and brine (400 ml), dried (Na2SO4) and concentrated to a liquid. The liquid was chromatographed on silica gel (elution with 20% ethyl acetate/hexane) to give a liquid.

reactant | 3-(4-bromobutyl)-4-thiazolidinone | 25 g | BrCCCCN1CSCC1=O | C7H12BrNOS
reactant | 1,5-diiodopentane | 100 g | ICCCCCI | C5H10I2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | HCl | 0.5N, 500 ml | Cl | ClH
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 3-(4-bromobutyl)-1-thia-3-azaspiro[4.5]decan-4-one | BrCCCCN1CSC2(C1=O)CCCCC2 | C12H20BrNOS
